US04661505
E. Preparation of ethyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoate
A solution of 9.75 g. of ethyl 6-(4-benzylphenyl)-6-bromo-hexanoate, 5.03 g. of 2,4-dihydroxy-3-propylacetophenone, 3.57 g. of potassium carbonate, and 1.0 g. of potassium iodide in 175 ml. of acetone was heated to reflux for about 86 hours. The reaction was evaporated in vacuo and the residue was purified by chromatography over silica gel eluting with a 0-20% ethyl acetate gradient in hexane. The appropriate fractions were pooled and evaporated, giving 2.5 g. of the desired product which was used for the subsequent hydrolysis. NMR was consistent with the compound ethyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoate.

reactant | ethyl 6-(4-benzylphenyl)-6-bromo-hexanoate | C(C1=CC=CC=C1)C1=CC=C(C=C1)C(CCCCC(=O)OCC)Br | C21H25BrO2
reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoate | C(C)(=O)C1=C(C(=C(OC(CCCCC(=O)OCC)C2=CC=C(C=C2)CC2=CC=CC=C2)C=C1)CCC)O | C32H38O5
